US08067445B2
Step 2: N-Ethyl-N-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-acetamide
Prepared according to the procedure described in Example 33, Step 2, using the following starting materials: N-(2-Bromo-5-trifluoromethyl-benzyl)-N-ethyl-acetamide and bis(pinacolato)diboron.

reactant | N-(2-Bromo-5-trifluoromethyl-benzyl)-N-ethyl-acetamide | BrC1=C(CN(C(C)=O)CC)C=C(C=C1)C(F)(F)F | C12H13BrF3NO
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | N-Ethyl-N-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-acetamide | C(C)N(C(C)=O)CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C18H25BF3NO3
